US09289510B2
Synthesis of 4-cyanopentanoic acid 4-cyanodithiobenzoate.
4,4′-azobis(4-cyanopentanoic acid) (5.6 g, 20 mmol) and bis(cyanothiobenzoyl)disulfide (4 g, 11.2 mmol) were added to a 250 mL round-bottomed flask containing 80 mL of distilled ethyl acetate. The reaction solution was refluxed for 18 h. The ethyl acetate was removed in vacuo. The product was isolated by column chromatography (silicagel 60 Å, 70-230 mesh) using ethyl acetate:hexane (2:3) as eluent.

reactant | 4,4′-azobis(4-cyanopentanoic acid) | 20 mmol, 5.6 g | N(=NC(CCC(=O)O)(C)C#N)C(CCC(=O)O)(C)C#N | C12H16N4O4
reactant | bis(cyanothiobenzoyl)disulfide | 11.2 mmol, 4 g | C(#N)C1=C(C(=S)SSC(C2=C(C=CC=C2)C#N)=S)C=CC=C1 | C16H8N2S4
reactant | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-cyanopentanoic acid 4-cyanodithiobenzoate | C(#N)C1=CC=C(C(=S)S)C=C1.C(#N)C(CCC(=O)O)C | InChI=1S/C8H5NS2.C6H9NO2/c9-5-6-1-3-7(4-2-6)8(10)11;1-5(4-7)2-3-6(8)9/h1-4H,(H,10,11);5H,2-3H2,1H3,(H,8,9)
